US04151172
(d) Methyl 2-[Bis[(Phenylmethyl)Oxy]Phosphinyl]Propionate
A solution of 3-benzyl-1-p-tolyltriazene (12.38 g., 0.05 moles) in anhydrous ether (150 ml.) is chilled in an ice bath and treated with a solution of methyl 2-phosphonopropionate (4.23 g., 0.025 moles) in ethyl acetate (5 ml.). After the addition, the reaction is stirred at room temperature for four hours. The mixture is then washed with 10% hydrochloric acid, water, and brine, dried over sodium sulfate, and concentrated in vacuo. The resultant red oil is chromatographed on silica gel (500 ml.) eluting with (1) 10% EtOAc/hexane (1 liter) (2) 30% EtOAc/hexane (1 liter) and (3) 50% EtOAc/hexane (1 liter) to yield 2.8 g. of product methyl 2-[bis[phenylmethyl)oxy[phosphinyl)]propionate. TLC (silica gel; hexane/ethyl acetate (1:1); Rf =0.2, UV visualization).

reactant | 3-benzyl-1-p-tolyltriazene | 0.05 moles, 12.38 g | C(C1=CC=CC=C1)NN=NC1=CC=C(C=C1)C | C14H15N3
reactant | methyl 2-phosphonopropionate | 0.025 moles, 4.23 g | P(=O)(O)(O)C(C(=O)OC)C | C4H9O5P
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[Bis[(Phenylmethyl)Oxy]Phosphinyl]Propionate | C1(=CC=CC=C1)COP(=O)(C(C(=O)OC)C)OCC1=CC=CC=C1 | C18H21O5P
